US08283354B2
To a cooled solution (0-5° C.) of D-leucine (200 g, 1.5 mol) in sulfuric acid (3 L, 1 M) was added dropwise a solution of sodium nitrite (240 g, 3.5 mol) in water (1 L) while maintaining the temperature between 0-5° C. The reaction mixture was stirred at room temperature overnight. The solution was saturated with sodium chloride and extracted with tert-butyl methyl ether (3×). The combined organic layers were dried over Na2SO4 and filtered, and the solvent was removed in vacuo. (R)-α-hydroxyisocaproic acid was isolated as a white solid in a yield of 67% (132 g).

reactant | D-leucine | 1.5 mol, 200 g | N[C@H](CC(C)C)C(=O)O | C6H13NO2
reactant | sodium nitrite | 3.5 mol, 240 g | N(=O)[O-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | sulfuric acid | 1 M, 3 L | S(O)(O)(=O)=O | H2O4S
solvent | water | 1 L | O | H2O
product | (R)-α-hydroxyisocaproic acid | yield of 67% | O[C@@H](C(=O)O)CC(C)C | C6H12O3
